US05153210
Methyl 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino] propyl]phenoxymethyl]tetrahydrofuran-2-carboxamide was prepared from methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxamide and 2-hydroxy-2-(3-chlorophenyl)ethanamine in an analogous manner to the compound described in Example 50.

reactant | methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxamide | CC1(OC(CC1)COC1=CC=C(C=C1)CC(=O)C)C(=O)N | C16H21NO4
reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
product | Methyl 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino] propyl]phenoxymethyl]tetrahydrofuran-2-carboxamide | CC1(OC(CC1)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)O)C(=O)N | C24H31ClN2O4
